US04001454
One gm. (0.007 mole) of 8-methylnon-2-yn-1-al, 10 gm. (0.1 mole) of trimethylorthoformate and 0.2 g of para-toluene-sulfuric acid were distilled. Methyl formate and methyl alcohol were collected. The solution was diluted with 15 ml of water and extracted with ether. The ether solution was washed with 5% sodium bicarbonate, and then water. The ether extract was dried over sodium sulfate, concentrate and distilled under vacuum to give 1,1-dimethoxy-8-methyl-non-2-yne.

reactant | 8-methylnon-2-yn-1-al | 0.007 mole | CC(CCCCC#CC=O)C | C10H16O
reactant | trimethylorthoformate | 0.1 mole | COC(OC)OC | C4H10O3
product | 1,1-dimethoxy-8-methyl-non-2-yne | COC(C#CCCCCC(C)C)OC | C12H22O2
